US09259001B2
Under an atmosphere of argon, 69.3 g (95% by weight pure, 182 mmol) of N-(trifluoroacetyl)-2,6-dibromo-4-methylaniline in 900 ml of dry diethyl ether were cooled to a temperature of −70° C. At this temperature, 153 ml of a 2.5M solution (382.5 mmol) of n-butyllithium in hexane were added dropwise. The mixture was subsequently stirred at this temperature for another 30 minutes. At this temperature, a solution of 51.5 g (547 mmol) of dimethyl disulfide in 100 ml of dry diethyl ether was then added dropwise. The contents were stirred at this temperature for 1 h and then at RT for 3 h and subsequently poured into 1000 ml of 1M hydrochloric acid. After phase separation, the aqueous phase was extracted with diethyl ether, the combined organic phases were dried and the filtrate was freed of the solvents. The residue was stirred with heptane for 30 minutes and then filtered. 46.6 g of N-(trifluoroacetyl)-2-bromo-4-methyl-6-(methylthio)aniline were obtained as residue.

reactant | N-(trifluoroacetyl)-2,6-dibromo-4-methylaniline | 182 mmol, 69.3 g | FC(C(=O)NC1=C(C=C(C=C1Br)C)Br)(F)F | C9H6Br2F3NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethyl disulfide | 547 mmol, 51.5 g | CSSC | C2H6S2
reactant | hydrochloric acid | 1M, 1000 ml | Cl | ClH
solvent | diethyl ether | 900 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | N-(trifluoroacetyl)-2-bromo-4-methyl-6-(methylthio)aniline | 46.6 g | FC(C(=O)NC1=C(C=C(C=C1SC)C)Br)(F)F | C10H9BrF3NOS
